data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3470,3951,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12]#[N:13])=[NH+:14][N-:15][C:16]([CH3:17])=[O:18]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[N:15]([C:16]([CH3:17])=[O:18])[NH:14][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:12]#[N:13],water,298.15,31.740242824292256,-3.926844558945117
2257,2502,[CH3:15][NH:16][C:17](=[O:18])[C-:19]([O+:20]=[C:21]([C:22](=[O:23])[O:24][CH3:25])[C:26](=[O:27])[O:28][CH3:29])[C:30]([CH3:31])=[O:32].[F:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[F:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:21]([C:22](=[O:23])[O:24][CH3:25])([C:26](=[O:27])[O:28][CH3:29])[O:20][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[C:30]([CH3:31])=[O:32],water,298.15,9.708532070596382,-42.40955395040721
184,201,[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2.[CH:13]#[N+:14][CH-:15][C:16]([CH3:17])=[O:18]>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[CH:15]([C:16]([CH3:17])=[O:18])[N:14]=[CH:13]2,water,298.15,10.840552283953976,-56.63729549128311
3378,3838,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8]([C:9]#[N:10])=[O+:11][CH-:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:12]([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[O:11][C:8]1([CH3:7])[C:9]#[N:10],water,298.15,8.786731748970501,-49.30343485797504
4683,5339,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][N+:12](=[C:13]([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[C-:22]([C:23]#[N:24])[C:25]#[N:26]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:13]([C:14]#[N:15])([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[N:12]([CH3:11])[C:22]2([C:23]#[N:24])[C:25]#[N:26],water,298.15,26.94191323548344,-1.6935060206514645
4953,5639,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][c:16]1[o:17][c:18](=[O:19])[c-:20](-[c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[o+:27]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:20]1([c:21]3[cH:22][cH:23][cH:24][cH:25][cH:26]3)[C:18](=[O:19])[O:17][C:16]2([CH3:15])[O:27]1,water,298.15,15.9008199298801,-8.446522032769115
1365,1500,[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2.[N:13]#[C:14][c:15]1[nH+:16][c-:17](-[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[c:24](=[O:25])[o:26]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:17]1([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[NH:16][C:15]3([C:14]#[N:13])[O:26][C:24]1=[O:25],water,298.15,15.036632409670045,-22.85240909248951
694,754,[CH3:15][NH:16][C:17](=[O:18])[C:19]([CH3:20])=[O+:21][O-:22].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[O:22][O:21][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[CH3:20],water,298.15,24.933747160358863,-21.787114835134503
5117,5810,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15](=[NH+:16][C-:17]([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:17]([C:18]([CH3:19])=[O:20])([C:21]([CH3:22])=[O:23])[NH:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,24.74038743542257,-11.89976856180489
5172,5870,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[C:27](=[O:28])[O:29][CH3:30].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]([C:17](=[O:18])[O:19][CH3:20])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[NH:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:27](=[O:28])[O:29][CH3:30],water,298.15,29.55789576393248,-6.847010956734335
4960,5647,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[O:11]=[c:12]1[o:13][c:14](-[c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[o+:21][c-:22]1-[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:22]1([c:23]3[cH:24][cH:25][cH:26][cH:27][cH:28]3)[C:12](=[O:11])[O:13][C:14]2([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[O:21]1,water,298.15,25.280415707982574,-0.5607917446392631
